US04785019
Preparation of N-Cyanomethyl-N-(1,1,2,2-tetrachloroethylthio)-1-naphthamide
To a stirred mixture of 5.0 g (0.024 N-cyanomethyl-1-naphthamide (the product of Example 11) and 6.2 g (0.026 mole) 1,1,2,2-tetrachloroethylsulfenyl chloride in 125 ml methylene chloride, 3.0 g (0.030 mole) triethylamine in 25 ml methylene chloride were dropped in over 40 minutes. The reaction mixture was stirred 30 minutes. The reaction mixture was washed three times with 75 ml portions of water, dried over magnesium sulfate, and stripped down to a volume of 50 ml. The methylene chloride solution was then chromatographed on a column containing about 125 g silica gel, eluting with methylene chloride. The eluate was stripped to give 4.3 g of the above-identified product as an amber glass which tended to crystallize slowly.

reactant | N-cyanomethyl-1-naphthamide | C(#N)CNC(=O)C1=CC=CC2=CC=CC=C12 | C13H10N2O
reactant | 1,1,2,2-tetrachloroethylsulfenyl chloride | 0.026 mole, 6.2 g | ClC(C(Cl)Cl)(SCl)Cl | C2HCl5S
reactant | triethylamine | 0.030 mole, 3.0 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 125 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | N-Cyanomethyl-N-(1,1,2,2-tetrachloroethylthio)-1-naphthamide | 4.3 g | C(#N)CN(C(=O)C1=CC=CC2=CC=CC=C12)SC(C(Cl)Cl)(Cl)Cl | C15H10Cl4N2OS
